US05089504
F. Preparation of 3-butyryl-4-(2-methylphenylamino)-7-hydroxymethylquinoline
To a stirring suspension of 3-butyryl-4-(2-methylphenylamino)-7-benzoylmethylquinoline (2.74 g, 6.25 mmol) in methanol (25 ml) was added 2 N sodium hydroxide (6.24 ml). Stirring was continued for 18 hours, then the solvent evaporated in vacuo and the residue treated with water and extracted with chloroform. The combined extracts were dried (Na2SO4) and evaporated to a solid, which was purified by column chromatography (silica, chloroform-methanol) to give the title compound (1.31 g) m.p. 176°-8°, from methanol.

reactant | 3-butyryl-4-(2-methylphenylamino)-7-benzoylmethylquinoline | 6.25 mmol, 2.74 g | C(CCC)(=O)C=1C=NC2=CC(=CC=C2C1NC1=C(C=CC=C1)C)CC(C1=CC=CC=C1)=O | C28H26N2O2
reactant | sodium hydroxide | 2 N, 6.24 ml | [OH-].[Na+]
reactant | methanol | 25 ml | CO | CH4O
product | 3-butyryl-4-(2-methylphenylamino)-7-hydroxymethylquinoline | 1.31 g | C(CCC)(=O)C=1C=NC2=CC(=CC=C2C1NC1=C(C=CC=C1)C)CO | C21H22N2O2
